US07700774B2
Step (ii): Preparation of 6,8-Dimethyl-4-oxo-1,4-dihydro-[1,7]naphthyridine-3-carboxylic acid ethyl ester
2-[(2,6-Dimethyl-pyridin-3-ylamino)-methylene]-malonic acid diethyl ester, prepared in step (i) and diphenyl ether (DPE) were placed in a round bottom flask and this mixture was heated to 260° C. for 1 h. The reaction was then cooled to RT and the content was purified by column chromatography over 100-200 mesh silica gel, eluted with 8% methanol in chloroform, to give the product as a brown solid (36%).

reactant | 2-[(2,6-Dimethyl-pyridin-3-ylamino)-methylene]-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)=CNC=1C(=NC(=CC1)C)C)=O | C15H20N2O4
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6,8-Dimethyl-4-oxo-1,4-dihydro-[1,7]naphthyridine-3-carboxylic acid ethyl ester | 36% | C(C)OC(=O)C1=CNC2=C(N=C(C=C2C1=O)C)C | C13H14N2O3
